US05747236
27. Preparation of N-(4-Carboxyethylphenyl)alanine ethyl ester
This compound was prepared in a manner analagous to the process described in synthesis example 14, except using ethyl-4-aminobenzoate and ethyl 2-bromoproprionate.

reactant | ethyl-4-aminobenzoate | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | ethyl 2-bromoproprionate | BrC(C(=O)OCC)C | C5H9BrO2
product | N-(4-Carboxyethylphenyl)alanine ethyl ester | C(C)OC([C@@H](NC1=CC=C(C=C1)CCC(=O)O)C)=O | C14H19NO4
